US07846929B2
Tert-butyl 2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-ylcarbamate (800 mg) was treated with 5 mL of trifluoroacetic acid/dichloromethane (1:1). The reaction mixture was stirred at room temperature until complete. The reaction mixture was evaporated. The residue was diluted with ethyl acetate (100 mL), washed with saturated sodium bicarbonate (50 mL) and brine (50 mL). The aqueous layer was back-extracted with ethyl acetate (2×60 mL), and then washed with saturated sodium bicarbonate and brine. The combined organic layers were dried over MgSO4, filtered and evaporated to afford 580 mg of 2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine.

reactant | Tert-butyl 2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-ylcarbamate | 800 mg | ClC=1N=C(C2=C(N1)C=C(S2)NC(OC(C)(C)C)=O)N2CCOCC2 | C15H19ClN4O3S
reactant | trifluoroacetic acid dichloromethane | 5 mL | FC(C(=O)O)(F)F.ClCCl
product | 2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine | 580 mg | ClC=1N=C(C2=C(N1)C=C(S2)N)N2CCOCC2 | C10H11ClN4OS
